US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-fluorophenyl)piperazine (Compound 139)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(4-fluorophenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 2.47 (s, 3H), 3.07-3.17 (m, 4H), 3.77-3.87 (m, 4H), 4.13 (s, 3H), 6.87-8.01 (m, 8H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-fluorophenyl)piperazine | 90% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H22FN5O2
